US06573263B2
Methyl 2-(1-hydroxyethyl)-5-phenylpentanoate
5.50 g (23.5 mmol) of methyl 2-acetyl-5-phenylpentanoate are introduced into 100 ml of methanol and the mixture is ice-cooled. 0.44 g (11.7 mmol) of sodium borohydride is added in portions and the mixture is stirred for a further 1 h. The solvent is then evacuated from the batch, and the residue is taken up in diethyl ether and washed with 1 N hydrochloric acid. The organic phase is then concentrated again and flash-chromatographed using the eluent petroleum ether/ethyl acetate 10/1.

reactant | methyl 2-acetyl-5-phenylpentanoate | 23.5 mmol, 5.50 g | C(C)(=O)C(C(=O)OC)CCCC1=CC=CC=C1 | C14H18O3
reactant | sodium borohydride | 11.7 mmol, 0.44 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | Methyl 2-(1-hydroxyethyl)-5-phenylpentanoate | OC(C)C(C(=O)OC)CCCC1=CC=CC=C1 | C14H20O3
